US04341784
A solution of 7-(3-acetylamino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (0.88 g) in 10% sodium hydroxide (15 ml) was heated to reflux for 5 hours with stirring. The solution was neutralized with 20% hydrochloric acid to give a precipitate, which was collected, washed successively with water and ethanol, dissolved in 10% acetic acid, and adjusted to pH 7.5-8.0 with 10% aqueous ammonia. There were obtained 0.70 g of 7-(3-amino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, m.p. 259°-262° C. (decomp.).

reactant | 7-(3-acetylamino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.88 g | C(C)(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C17H19FN4O4
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 15 ml | [OH-].[Na+]
product | 7-(3-amino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.70 g | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C15H17FN4O3
